US04622420
10.0 g (60.6 mmoles) of L-phenylalanine was dissolved in 16 ml concentrated H2SO4 (95-98%, D. 1.84 g/ml) at 0° C. 3.0 ml of HNO3 (90%, D. 1.5 g/ml) was added dropwise to the stirring solution keeping temperature at about 0° C. After all of the HNO3 has been added, the solution was allowed to stir 10-15 minutes. Reaction solution was then poured over about 200 ml of ice and then diluted to about 700 ml with additional H2O. This solution was then heated to a boil, and neutralized with PbCO3, about 80 g. The resulting precipitate was filtered and the supernatant was treated with H2S(g) to precipitate remaining Pb++, and then filtered. The resulting filtrate was reduced to 1/3 its volume. The solid which formed was filtered and washed with 95% ethanol. Yield was 50-55% of p-nitrophenylalanine when recrystallized from boiling H2O.

reactant | L-phenylalanine | 60.6 mmoles, 10.0 g | N[C@@H](CC1=CC=CC=C1)C(=O)O | C9H11NO2
reactant | HNO3 | 3.0 ml | [N+](=O)(O)[O-] | HNO3
solvent | H2SO4 | 16 ml | OS(=O)(=O)O | H2O4S
solvent | H2O | O | H2O
product | p-nitrophenylalanine | Yield was 50-55% | [N+](=O)([O-])C1=CC=C(C[C@H](N)C(=O)O)C=C1 | C9H10N2O4
